US04528371
A 20% w/v solution of potassium hydroxide cooled to 5° was added slowly to a cooled (5°) 50% aqueous solution of glyoxylic acid (1184 g, 8 mol) until the mixture had pH 9, with external cooling to maintain the temperature below 25°. 2-Hydroxyacetophenone (1089 g, 8 mol) was poured into a solution of potassium hydroxide (783 g) in water (2580 ml), this mixture was added to the glyoxylic acid-potassium hydroxide solution and the resultant mixture was stirred at room temperature for 4 hours. The pH was adjusted to pH 8, with external cooling, by the addition of concentrated sulphuric acid (330 ml). An inorganic sediment was removed by filtration, the filtrate was extracted with dichloromethane (3000 ml) and concentrated sulphuric acid (100 ml) was added with external cooling to the aqueous phase to give a mixture with pH 4.5. A solid precipitated out during this process. Concentrated aqueous ammonia (28% w/w) was added with external cooling until the mixture had pH 8. The precipitate dissolved during this addition. Aqueous hydrazine hydrate (64% w/w, 402.4 g, 8 mol) was added, the mixture was heated under reflux for 3 hours and allowed to cool to room temperature. The solid was filtered off, washed with water and 2-propanol and dried to give 6-(2-hydroxyphenyl)-3(2H)-pyridazinone (811 g, 54%) m.p. 294°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | glyoxylic acid | 8 mol, 1184 g | C(C=O)(=O)O | C2H2O3
reactant | 2-Hydroxyacetophenone | 8 mol, 1089 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | potassium hydroxide | 783 g | [OH-].[K+]
reactant | glyoxylic acid potassium hydroxide | C(C=O)(=O)O.[OH-].[K+]
reactant | sulphuric acid | 330 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrazine hydrate | 8 mol, 402.4 g | O.NN
solvent | water | 2580 ml | O | H2O
product | 6-(2-hydroxyphenyl)-3(2H)-pyridazinone | 811 g, 54% | OC1=C(C=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
